US04582526
42.8 g of ethanolamine are placed in 350 ml of methylene chloride. 47.8 g of isobutyl chloroformate are then added dropwise during 1 hour at 5°-15° C. while cooling with ice. After stirring at room temperature for a further 4 hours, the methylene chloride is removed by evaporation and the residue is distilled. There is obtained pure isobutyl 2-hydroxyethylcarbamate; b.p. 111°-113° C./0.07 Torr.

reactant | ethanolamine | 42.8 g | C(O)CN | C2H7NO
reactant | isobutyl chloroformate | 47.8 g | ClC(=O)OCC(C)C | C5H9ClO2
solvent | methylene chloride | 350 ml | C(Cl)Cl | CH2Cl2
product | isobutyl 2-hydroxyethylcarbamate | OCCNC(OCC(C)C)=O | C7H15NO3
